US09063126B2
2,3,4,5-tetrahydro-1,4-ethanopyrido[3,2-b]indole
A mixture of 2-iodoaniline (1.00 g, 4.57 mmol; Aldrich), quinuclidin-3-one hydrochloride (1.24 g, 7.67 mmol; Aldrich), palladium(II) acetate (51 mg, 0.23 mmol; Aldrich), 1,4-diazabicyclo[2.2.2]octane (DABCO; 1.79 g, 15.98 mmol; Aldrich) and magnesium sulfate (0.88 g, 7.31 mmol; Aldrich) in dry N,N-dimethylformamide (14 mL) was evacuated and purged with nitrogen (three cycles) and stirred at 110° C. for 18 hours. The reaction mixture was cooled to ambient temperature and filtered through a microfiber frit. The filtrate was concentrated in vacuo, dissolved in methanol (10 mL) and purified by preparative HPLC [Waters XBridge RP18 column, 5 μm, 30×100 mm, flow rate 40 mL/minute, 10-99% gradient of methanol in buffer (0.1 M aqueous ammonium bicarbonate, adjusted to pH 10 with ammonium hydroxide)] to afford the title compound: 1H NMR (500 MHz, methanol-d4) δ ppm 1.52-1.66 (m, 2H), 1.97-2.06 (m, 2H), 2.58-2.71 (m, 2H), 3.24-3.31 (m, 2H), 3.40-3.45 (quintet, J=2.9 Hz, 1H), 6.94-7.05 (m, 2H), 7.31-7.35 (m, 1H), 7.52-7.57 (m, 1H); MS (APCI) m/z 199 (M+H)+.

reactant | 2-iodoaniline | 4.57 mmol, 1.00 g | IC1=C(N)C=CC=C1 | C6H6IN
reactant | quinuclidin-3-one hydrochloride | 7.67 mmol, 1.24 g | Cl.N12CC(C(CC1)CC2)=O
reactant | 1,4-diazabicyclo[2.2.2]octane | 15.98 mmol, 1.79 g | N12CCN(CC1)CC2 | C6H12N2
reactant | magnesium sulfate | 7.31 mmol, 0.88 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | N,N-dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.23 mmol, 51 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,3,4,5-tetrahydro-1,4-ethanopyrido[3,2-b]indole | N12CCC(C=3NC=4C=CC=CC4C31)CC2 | C13H14N2
